### PR TITLE
RFC: avoid `Classical.em` to split ifs

### LINKED ISSUE #2414: RFC: avoid using `Classical.em` to split ifs
### Description

The fact that Lean uses classical axioms on occasion to avoid fiddling with decidabilty instances is well-known and mostly harmless. However, there are some cases where this is not necessary, such as with the `split` tactic because the decidability instance is provided with the `ite`/`dite` expression and could be used to avoid using `Classical.em`.

### Steps to Reproduce

```lean
theorem ifthisthenthat (n : Nat) : (if n = 0 then 0 else 0) = 0 := by split <;> rfl

#print axioms ifthisthenthat
```

**Expected behavior:** `'ifthisthenthat' depends on no axioms`

**Actual behavior:** `'ifthisthenthat' depends on axioms: [Classical.choice, Quot.sound, propext]`

### Versions

`Lean (version 4.0.0-nightly-2023-07-24, commit 3b6bc4a87df3, Release)`

### Additional Information

Tentative patch at PR #2412

### PR DESCRIPTION
**Pull request by fgdorais**
fixes #2414 

This is a low priority item but here is a patch for your consideration.

### CODE REVIEW

File: src/Lean/Meta/Tactic/SplitIf.lean [hunk 1]
```diff
@@ -57,22 +57,23 @@ def discharge? (useDecide := false) : Simp.Discharge := fun prop => do
            return none
 
 /-- Return the condition of an `if` expression to case split. -/
```
Comment (eric-wieser) [inline src/Lean/Meta/Tactic/SplitIf.lean:59]:
```suggestion
/-- Return the condition (and decidability instance) of an `if` expression to case split. -/
```

**Review by digama0 — APPROVED** [review]
Could you add a test (using `#print axioms` on a `split` proof)?

**Comment by fgdorais** [comment]
> Could you add a test (using `#print axioms` on a `split` proof)?

I added a simple test and I tried to follow the guidelines for new tests.

File: src/Lean/Meta/Tactic/SplitIf.lean [hunk 2]
```diff
@@ -56,23 +56,24 @@ def discharge? (useDecide := false) : Simp.Discharge := fun prop => do
          else
            return none
 
-/-- Return the condition of an `if` expression to case split. -/
-partial def findIfToSplit? (e : Expr) : Option Expr :=
+/-- Return the condition (and decidability instance) of an `if` expression to case split. -/
+partial def findIfToSplit? (e : Expr) : Option (Expr × Expr) :=
   if let some iteApp := e.find? fun e => (e.isIte || e.isDIte) && !(e.getArg! 1 5).hasLooseBVars then
```
Comment (eric-wieser) [inline src/Lean/Meta/Tactic/SplitIf.lean:61]: Do we need `!(e.getArg! 2 5).hasLooseBVars` as well? Do you know how to write a test to check?

Comment (fgdorais) [reply src/Lean/Meta/Tactic/SplitIf.lean:61]: I wouldn't know how to reliably check whether it's needed or not. On the other hand, we might *only* need `!(e.getArg! 2 5).hasLooseBVars` because the proposition is a subterm of the decidable instance.

Comment (digama0) [reply src/Lean/Meta/Tactic/SplitIf.lean:61]: We do. Here's a contrived example:
```lean
example (c : Prop) :
    (fun [Decidable c] => if c then 0 else 0) = (fun _ => 0) := by
  split <;> rfl
```

Comment (digama0) [reply src/Lean/Meta/Tactic/SplitIf.lean:61]: Note that adding `!(e.getArg! 2 5).hasLooseBVars` will make `split` fail to split the if statement in this example. If we wanted to retain the original behavior, we could say that if `(e.getArg! 2 5).hasLooseBVars` then it just returns `none` for that component (and hence it would use classical logic to split in that case).

**Comment by leodemoura** [comment]
https://github.com/leanprover/lean4/blob/master/doc/contributions.md

**Comment by fgdorais** [comment]
> https://github.com/leanprover/lean4/blob/master/doc/contributions.md

Thank you for the reminder Leo. Apologies for not following guidelines.

File: src/Lean/Meta/Tactic/SplitIf.lean [hunk 3]
```diff
@@ -56,23 +56,25 @@ def discharge? (useDecide := false) : Simp.Discharge := fun prop => do
...
            return none
 
-/-- Return the condition of an `if` expression to case split. -/
-partial def findIfToSplit? (e : Expr) : Option Expr :=
+/-- Return the condition (and decidability instance when available) of an `if` expression to case split. -/
+partial def findIfToSplit? (e : Expr) : Option (Expr × Option Expr) :=
   if let some iteApp := e.find? fun e => (e.isIte || e.isDIte) && !(e.getArg! 1 5).hasLooseBVars then
     let cond := iteApp.getArg! 1 5
+    -- If the decidability instance has loose bound variables then we fall back on using classical axioms
+    let inst := if (e.getArg! 2 5).hasLooseBVars then none else some <| iteApp.getArg! 2 5
```
Comment (semorrison) [inline src/Lean/Meta/Tactic/SplitIf.lean:64]: `e` should be `iteApp` here, no?

If so, please expand the test coverage to the point that this would have been caught. :-)

In either case, there should be a test that Mario's example succeeds still.

File: src/Lean/Meta/Tactic/SplitIf.lean [hunk 4]
```diff
@@ -56,23 +56,25 @@ def discharge? (useDecide := false) : Simp.Discharge := fun prop => do
...
     -- Try to find a nested `if` in `cond`
-    findIfToSplit? cond |>.getD cond
+    findIfToSplit? cond |>.getD (cond, inst)
   else
     none
 
 def splitIfAt? (mvarId : MVarId) (e : Expr) (hName? : Option Name) : MetaM (Option (ByCasesSubgoal × ByCasesSubgoal)) := do
   let e ← instantiateMVars e
-  if let some cond := findIfToSplit? e then
+  if let some (cond, inst) := findIfToSplit? e then
```
Comment (semorrison) [inline src/Lean/Meta/Tactic/SplitIf.lean:72]:
```suggestion
  if let some (cond, dec) := findIfToSplit? e then
```
is perhaps a clearer name? Or even `decInst`.

**Comment by semorrison** [comment]
Could we also have some tests that exercise the nested ifs situation?

File: src/Lean/Meta/Tactic/SplitIf.lean (hunk 4 above)
Comment (fgdorais) [reply src/Lean/Meta/Tactic/SplitIf.lean]: I went for `dec?` which also signals it's an `Option Expr` and not an `Expr`.

File: src/Lean/Meta/Tactic/SplitIf.lean (hunk 3 above)
Comment (fgdorais) [reply src/Lean/Meta/Tactic/SplitIf.lean]: I added Mario's example in the tests. 

I think that test would also catch the typo since `e.getArg! 2 5` would be `default` and wouldn't have loose bound variables but `iteApp.getArg! 2 5` would have some. I have a hard time thinking of a test that would more specifically catch that typo.

**Comment by fgdorais** [comment]
> Could we also have some tests that exercise the nested ifs situation?

Done.

**Comment by Kha** [comment]
I'm closing this for the reasons described by Scott before this PR was opened: https://leanprover.zulipchat.com/#narrow/stream/348111-std4/topic/How.20classical.20is.20std4.3F/near/383780177. Apologies for not being clear about this during the follow-up interactions.

**Comment by fgdorais** [comment]
No need to apologize. I never had any expectation for this PR to get merged. I did enjoy getting it done though, that was fun!

**Comment by digama0** [comment]
This is actually quite upsetting to me. This is not a poorly written PR, it is a small change with tests which satisfies the contribution requirements and the RFC for it has not been rejected. Moreover, making this change outside of core borders on completely infeasible, as one would have to duplicate the entirety of `split` and `simp` (which calls `split`), which TBH I am considering doing in std. Just because it's a low priority doesn't mean it should just be closed, that's what you do to things that are unwanted not low priority.

**Comment by leodemoura** [comment]
Hi Mario,

Firstly, I'd like to sincerely apologize for any upset caused by the decision to close the PR. Your dedication to the Lean theorem prover project is evident, and we value all contributions made by our collaborators.

We recently updated our external contribution guidelines to streamline the process. However, as with any evolving system, there will inevitably be moments of misalignment or miscommunication. We're working on ironing out the kinks, and your feedback plays a crucial role in this.

I'd like to clarify that the PR was closed primarily because the RFC process was still in progress. Our intention is to have PRs opened only after the RFC process is complete and contributors have received the necessary approval. This ensures that all contributions align with the project's direction and requirements. I recognize that this might not have been clearly communicated, and we will take steps to make this clearer in our guidelines.

That said, I must express my disappointment regarding your consideration to duplicate `simp` and `split` in Std. I entrusted you with the responsibility of maintaining Std due to your expertise and dedication, and you have indeed done a commendable job. Duplicating such significant components can lead to fragmentation, causing confusion and inconsistencies for our users. Our shared goal is to ensure that Lean and Std offer a coherent and seamless experience. Let's work together to avoid such divergences.

I genuinely hope we can move past this bump and continue collaborating productively. Your input, experience, and dedication are invaluable to the project

Best,
Leo

**Comment by digama0** [comment]
> Firstly, I'd like to sincerely apologize for any upset caused by the decision to close the PR. Your dedication to the Lean theorem prover project is evident, and we value all contributions made by our collaborators.

I appreciate that. I'm not personally hurt or walking away or anything like that, but I will keep trying to push for a more transparent and open process for lean 4 contributions for myself and others. 

The new external contribution guidelines are good! I only hope that this is reflected better in the PR process as well, and I'm willing to give this one the benefit of the doubt seeing as the guidelines were modified while it was in flight.

> I'd like to clarify that the PR was closed primarily because the RFC process was still in progress. Our intention is to have PRs opened only after the RFC process is complete and contributors have received the necessary approval. This ensures that all contributions align with the project's direction and requirements. I recognize that this might not have been clearly communicated, and we will take steps to make this clearer in our guidelines.

I think this is not a good idea. For one thing, the PR may in fact be the first thing written and then the contributor is just sitting on some code that could help clarify the proposal, and additionally seeing the code can help inform why the RFC author thinks the issue is fixable and at least one proposal for how to go about doing so.

How about using draft PRs for this purpose? I don't think it necessarily has to be a "real" PR, but it is useful to be able to have code as an addendum to the proposal even before it is completed. I believe Scott has done this with a few recent issues and it doesn't seem to have caused major strife.

> That said, I must express my disappointment regarding your consideration to duplicate simp and split in Std. I entrusted you with the responsibility of maintaining Std due to your expertise and dedication, and you have indeed done a commendable job. Duplicating such significant components can lead to fragmentation, causing confusion and inconsistencies for our users. Our shared goal is to ensure that Lean and Std offer a coherent and seamless experience. Let's work together to avoid such divergences.

Indeed, this is why I really don't like to duplicate or replace tactics if I can possibly help it. Lean 4 has some great monkey-patching capabilities, but we can't (yet) replace plain function calls in existing upstream code. If the replacement tactic is "strictly better" than the original, then for users it can sometimes just work, but there are still issues sometimes when parts of the system refer directly to a syntax declaration or call functions directly in core instead of using the frontend tactics, leading to a spotty experience. I said I was considering it, but I have made no actions to actually do so yet. A simpler possibility is to offer a `split'` tactic so that people opt in to it, we have a few examples of this in mathlib, but it's still imperfect. The only really perfect solution is to fix the issue at its source.

It sounds like the PR was closed because the RFC is not yet complete, which means that it's not actually dead yet, it was just a procedural issue and can be revived after the RFC is completed. If so, then this is good news, and I will await the resolution of the RFC.

**Comment by leodemoura** [comment]
> It sounds like the PR was closed because the RFC is not yet complete, which means that it's not actually dead yet, it was just a procedural issue and can be revived after the RFC is completed. If so, then this is good news, and I will await the resolution of the RFC.

Correct. The PR can be reopened after the RFC process is completed.

**Comment by fgdorais** [comment]
It should be documented somewhere that there is a pathway out of closure since this is not typical usage. I'm also not sure this is a good idea since it opens the possibility of "closing wars" and other mayhem. From my prior experience on MathOverflow, these are extremely time consuming and mostly pointless (@semorrison can confirm this). I would steer away from using closure in this way.

File: tests/lean/split-ifs.lean [hunk 5]
```diff
@@ -0,0 +1,21 @@
...
+
+#print axioms ittt1
+
+/- Example where the decidabilty instance has loose bound variables
+  and split falls back on classical axioms (courtesy of Mario Carneiro). -/
+theorem ittt2 (c : Prop) :
+    (fun [Decidable c] => if c then 0 else 0) = (fun _ => 0) := by
+  split <;> rfl
+
+#print axioms ittt2
```
Comment (eric-wieser) [inline tests/lean/split-ifs.lean:15]: Just to note, this is consistent with the Lean 3 behavior:
```lean
import tactic.split_ifs

theorem ittt2 (c : Prop) :
  (fun [decidable c], by exactI if c then 0 else 0) = (fun _, 0) :=
begin
  split_ifs,
  sorry,
  sorry
end

#print axioms ittt2
```
(suggesting the choice that was made to fallback to classical rather than failing is the correct one)
